US07279469B2
A mixture of 1-ethyl-4-nitro-benzene (3.4 mL, 25 mmol), N-bromosuccinimide (4.38 g, 24.6 mmol) and benzoylperoxide (0.04 g, 0.18 mmol) in carbon tetrachloride (30 mL) was refluxed 1 h, cooled and filtered, washing with 1:1 ethyl acetate:hexanes. The filtrate was evaporated and purified by flash chromatography (SiO2) eluted with 2:98 ethyl acetate:hexanes to provide 1-(1-bromo-ethyl)-4-nitro-benzene (5.18 g, 90% yield) as a yellow oil. 1H-NM (CDCl3, 500 MHz) 8.22 (d, 2H), 7.62 (d, 2H), 5.22 (q, 1H), 2.08 (d, 3H) ppm; HPLC (Method A) 3.837 min.

reactant | 1-ethyl-4-nitro-benzene | 25 mmol, 3.4 mL | C(C)C1=CC=C(C=C1)[N+](=O)[O-] | C8H9NO2
reactant | N-bromosuccinimide | 24.6 mmol, 4.38 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoylperoxide | 0.18 mmol, 0.04 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 1-(1-bromo-ethyl)-4-nitro-benzene | 5.18 g, 90% yield | BrC(C)C1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO2
